US04496572
A mixture of 5-bromo-3-ethylbenzofuran-2-carbonitrile (2.00 g), potassium hydroxide (1.00 g), water (10 ml) and ethanol (0.5 ml) was heated under reflux for 48 hours and then the solvent was evaporated. The residue was dissolved in water and the solution was filtered and acidified with 2N hydrochloric acid. The solid was filtered off, washed with water and dried to give 5-bromo-3-ethylbenzofuran-2-carboxylic acid (2.01 g) which had m.p. 240°-242° after crystallisation from methanol/H2O.

reactant | 5-bromo-3-ethylbenzofuran-2-carbonitrile | 2.00 g | BrC=1C=CC2=C(C(=C(O2)C#N)CC)C1 | C11H8BrNO
reactant | potassium hydroxide | 1.00 g | [OH-].[K+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 5-bromo-3-ethylbenzofuran-2-carboxylic acid | 2.01 g | BrC=1C=CC2=C(C(=C(O2)C(=O)O)CC)C1 | C11H9BrO3
